US09120749B2
1-{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}ethanone
Following general procedure F, 1-{6-bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}ethanone (30 mg, 0.077 mmol) was reacted with 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (42 mg, 0.154 mmol) to afford the desired product (24 mg, 68%) as a yellow-orange solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.13 (s, 1H), 8.48 (s, 1H), 8.29 (dd, J=8.8, 1.8 Hz, 1H), 8.00 (d, J=8.8 Hz, 1H), 7.63 (s, 1H), 7.56 (dd, J=11.4, 2.3 Hz, 1H), 4.65-4.61 (m, 1H), 3.50-3.46 (m, 1H), 2.91 (s, 6H), 2.75 (s, 3H), 2.58-2.54 (m, 2H), 2.34-2.28 (m, 2H), 1.91-1.81 (m, 4H); ESI MS m/z 456 [C25H27ClFN3O2+H]+; HPLC 97.1% (AUC), tR=9.52 min.

reactant | 1-{6-bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}ethanone | 0.077 mmol, 30 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)N(C)C | C19H24BrN3O
reactant | 2-chloro-6-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.154 mmol, 42 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)O | C12H15BClFO3
product | 1-{6-(3-Chloro-5-fluoro-4-hydroxyphenyl)-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}ethanone | 24 mg, 68% | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)N(C)C | C25H27ClFN3O2
